US07566712B2
Combine a mixture of 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine (47 mg, 1 mmol) and diethylamine (2 mL). Heat the mixture in a sealed tube at 60° C. for 16 hours. Cool to room temperature and evaporate. Add 1 M NaOH (1 mL) and extract 2× with EtOAc (2 mL each). Combine the organic layers, dry (Na2SO4), and purify using preparative TLC (9:1 hexanes/EtOAc) to obtain {4-(3-Chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-yl}-diethyl-amine as a white solid.

reactant | 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | 1 mmol, 47 mg | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)Cl)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C20H15Cl2F4N5
reactant | diethylamine | 2 mL | C(C)NCC | C4H11N
product | {4-(3-Chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidin-2-yl}-diethyl-amine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)N(CC)CC | C24H25ClF4N6
